US08017604B2
Step 1: 7-Amino-2-phenyl-imidazo[1,2-a]pyridine-6-carbonitrile
2-Bromoacetophenone (1.11 g, 5.6 mmol) and NaHCO3 (470 mg) were added to a solution of 3-cyano-4,6-diaminopyridine (500 mg, 3.7 mmol) in methanol (7.5 ml), and the mixture was heated to reflux overnight. The mixture was cooled, water (4 ml) was added, and the precipitate was filtered to give a first crop of the desired product. The filtrate was evaporated, taken up in ethyl acetate and washed (water, brine). The organic layer was dried (Na2SO4), evaporated, and the residue was purified by column chromatography (silica gel, heptane:ethyl acetate=100:0-60:40) to yield a second crop of product. The combined isolates were dried to give the title compound (350 mg, 40%). MS (m/e)=235.1 [M+H+].

reactant | 2-Bromoacetophenone | 5.6 mmol, 1.11 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | NaHCO3 | 470 mg | C(=O)(O)[O-].[Na+]
reactant | 3-cyano-4,6-diaminopyridine | 3.7 mmol, 500 mg | C(#N)C=1C=NC(=CC1N)N | C6H6N4
reactant | water | 4 ml | O | H2O
solvent | methanol | 7.5 ml | CO | CH4O
product | 7-Amino-2-phenyl-imidazo[1,2-a]pyridine-6-carbonitrile | NC1=CC=2N(C=C1C#N)C=C(N2)C2=CC=CC=C2 | C14H10N4
